US07335658B2
6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-PHENYLCYCLOPROPYLMETHYL)AMIDE
Following the procedure of Example 15, making variations only as required to use 6-chloropyridazine-3-carboxylic acid (2-phenylcyclopropylmethyl)amide in place of 6-chloropyridazine-3-carboxylic acid (2-cyclopropyl-2-hydroxyethyl)amide to react with piperazin-1-yl-(2-trifluoromethylphenyl)methanone, the title compound was obtained as a white solid (25% yield). 1H NMR (400 MHz, CDCl3) δ 8.09-8.03, 7.76, 7.64, 7.57, 7.36, 7.28-7.21, 7.17-7.12, 7.07-6.96, 4.09-3.32, 1.92-1.86, 1.47-1.38, 1.01-0.96. MS (ES+) m/z 510.4 (M+1).

reactant | 6-chloropyridazine-3-carboxylic acid (2-phenylcyclopropylmethyl)amide | C1(=CC=CC=C1)C1C(C1)CNC(=O)C=1N=NC(=CC1)Cl | C15H14ClN3O
reactant | piperazin-1-yl-(2-trifluoromethylphenyl)methanone | N1(CCNCC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C12H13F3N2O
product | 6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-PHENYLCYCLOPROPYLMETHYL)AMIDE | C1(=CC=CC=C1)C1C(C1)CNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C27H26F3N5O2
